US08633183B2
A-51) 4-[5-(6-Amino-2-methyl-pyridin-3-ylethynyl)-6-ethyl-pyrimidin-4-yl]-2-fluoro-benzoic acid
The title compound is synthesized according to general procedure GP8 starting from 4.0 g (10.3 mmol) 4-[5-(6-Amino-2-methyl-pyridin-3-ylethynyl)-6-ethyl-pyrimidin-4-yl]-2-fluoro-benzoic acid methyl ester using 1.29 g (30.7 mmoL) LiOH in 40 mL water and 200 mL THF. The reaction mixture is stirred over night at 50° C. The solvent is removed under reduced pressure and the residue is taken up in water. Aqueous 1 M HCl is added until pH 5 is reached. The precipitated product is filtered off and washed with ACN. After drying 1.3 g (32%) of the desired product are obtained a solid material.

reactant | 4-[5-(6-Amino-2-methyl-pyridin-3-ylethynyl)-6-ethyl-pyrimidin-4-yl]-2-fluoro-benzoic acid methyl ester | 10.3 mmol, 4.0 g | COC(C1=C(C=C(C=C1)C1=NC=NC(=C1C#CC=1C(=NC(=CC1)N)C)CC)F)=O | C22H19FN4O2
reactant | LiOH | [Li+].[OH-]
solvent | water | 40 mL | O | H2O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 4-[5-(6-Amino-2-methyl-pyridin-3-ylethynyl)-6-ethyl-pyrimidin-4-yl]-2-fluoro-benzoic acid | NC1=CC=C(C(=N1)C)C#CC=1C(=NC=NC1CC)C1=CC(=C(C(=O)O)C=C1)F | C21H17FN4O2
